US04031226
A mixture of 7.6 parts of 1-(2-nitrobenzoyl)aziridine, 8.46 parts of 4-(4-chlorophenyl)-4-piperidinol, 43.2 parts of benzene and 6.4 parts of methanol is stirred and refluxed for 1.50 hours. The reaction mixture is cooled and the product is extracted with trichloromethane. The extract is washed three times with water, dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanone. The salt is filtered off and crystallized from a mixture of ethanol and 2,2'-oxybispropane. The product is filtered off and dried, yielding 6parts of N-{2-[4-(4-chlorophenyl)-4- hydroxy-1-piperidinyl]ethyl}-2-nitrobenzamide hydrochloride; mp. 174.1° C.

reactant | 1-(2-nitrobenzoyl)aziridine | [N+](=O)([O-])C1=C(C(=O)N2CC2)C=CC=C1 | C9H8N2O3
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | N-{2-[4-(4-chlorophenyl)-4- hydroxy-1-piperidinyl]ethyl}-2-nitrobenzamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)CCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O)O | InChI=1S/C20H22ClN3O4.ClH/c21-16-7-5-15(6-8-16)20(26)9-12-23(13-10-20)14-11-22-19(25)17-3-1-2-4-18(17)24(27)28;/h1-8,26H,9-14H2,(H,22,25);1H
